US04282246
5-(3,5-Difluorophenylthio)furan-3-carboxylic Acid
In an open flask, cuprous oxide (0.6 g., 4 mmoles) and 3,5-difluorothiophenol (0.76 g., 4 mmoles) were combined with 25 ml. of dimethylformamide and heated in an oil bath maintained at 150°-160° C. for 2 hours. 5-Bromofuran-3-carboxylic acid was added, the flask was equipped with a reflux condenser, and heating at 150°-155° C. was continued for 16 hours. The reaction mixture was cooled, filtered, the filtrate diluted with 150 ml. of water and product extracted into two 30 ml. portions of ethyl acetate. The combined ethyl acetate extracts were back-washed with water, evaporated to an oil, the oil taken up in ether, product extracted into 12 ml. of 1 N sodium hydroxide, the basic extract acidified with conc. hydrochloric acid and the product extracted back into fresh ether and evaporated to yield crude product as an oil. The oil was chromatographed on approximately 100 ml. of silica gel with hexane/5% acetic acid as eluant, clean fractions (Rf 0.2 on thin layer chromatography with the same eluant) were combined, concentrated to dryness, and crystallized by trituration with hexane to yield purified 5-(3,5-difluorophenylthio)furan-3-carboxylic acid (127 mg., m.p. 128°-130° C., m/e 256).

reactant | 3,5-difluorothiophenol | 4 mmoles, 0.76 g | FC=1C=C(C=C(C1)F)S | C6H4F2S
reactant | 5-Bromofuran-3-carboxylic acid | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(3,5-Difluorophenylthio)furan-3-carboxylic Acid | FC=1C=C(C=C(C1)F)SC1=CC(=CO1)C(=O)O | C11H6F2O3S
